US08809376B2
Step 4: 4-bromo-5-trifluoromethyl-indan-1-one
3-(2-Bromo-3-trifluoromethyl-phenyl)-propionic acid (3.25 g) in trifluoromethane-sulfonic acid (30 ml) is stirred at 75° C. for 2.5 h. After cooling to room temperature, the mixture is poured into water and the resulting mixture is extracted with ethyl acetate. The combined organic extract is washed with aqueous NaHCO3 solution, dried (Na2SO4), and concentrated. The residue is chromatographed on silica gel (cyclohexane/ethyl acetate 90:10→80:20) to afford the title compound. LC (method 5): tR=0.90 min.

reactant | 3-(2-Bromo-3-trifluoromethyl-phenyl)-propionic acid | 3.25 g | BrC1=C(C=CC=C1C(F)(F)F)CCC(=O)O | C10H8BrF3O2
reactant | water | O | H2O
solvent | trifluoromethane-sulfonic acid | 30 ml | FC(S(=O)(=O)O)(F)F | CHF3O3S
product | 4-bromo-5-trifluoromethyl-indan-1-one | BrC1=C2CCC(C2=CC=C1C(F)(F)F)=O | C10H6BrF3O
